US04918073
(c) 1-[4,5-Bis(4-fluorophenyl)pentyl]piperazine
50 g (0.17 mol) of 4,5-bis(4-fluorophenyl)pentyl chloride, 32.5 g (0.21 mol) of ethyl piperazine-1-carboxylate, 46.9 g (0.34 mol) of powdered potassium carbonate and 2.8 g of potassium iodide were reacted in 580 ml of methyl isobutyl ketone and the mixture was worked up, by a process analogous to that described in Example 3d).

reactant | 4,5-bis(4-fluorophenyl)pentyl chloride | 0.17 mol, 50 g | FC1=CC=C(C=C1)C(CCCCl)CC1=CC=C(C=C1)F | C17H17ClF2
reactant | ethyl piperazine-1-carboxylate | 0.21 mol, 32.5 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | potassium carbonate | 0.34 mol, 46.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.8 g | [I-].[K+]
solvent | methyl isobutyl ketone | 580 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-[4,5-Bis(4-fluorophenyl)pentyl]piperazine | FC1=CC=C(C=C1)C(CCCN1CCNCC1)CC1=CC=C(C=C1)F | C21H26F2N2
